US05210080
Formic acid (2.09 ml) was added to acetic anhydride (4.17 ml) at room temperature and the mixture was stirred for 30 minutes at the same temperature. 5-Carbamoylamino-1-(2-hydroxyethyl)pyrazole (3.76 g) was added thereto under stirring and ice-cooling. The mixture was stirred for 2 hours at room temperature. The reaction mixture was evaporated in vacuo and diisopropyl ether was added thereto to give 5-carbamoylamino-1-(2-formyloxyethyl)pyrazole (4.15 g).

reactant | acetic anhydride | 4.17 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-Carbamoylamino-1-(2-hydroxyethyl)pyrazole | 3.76 g | C(N)(=O)NC1=CC=NN1CCO | C6H10N4O2
solvent | Formic acid | 2.09 ml | C(=O)O | CH2O2
product | 5-carbamoylamino-1-(2-formyloxyethyl)pyrazole | 4.15 g | C(N)(=O)NC1=CC=NN1CCOC=O | C7H10N4O3
